US07132436B2
3-Chloro-2-methyl-N-[4-(3-nitrophenyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 2-amino-4-(-3-nitrophenyl)thiazole and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (36.0 mg) with purity >90%. MS (pos) m/z 410.0.

reactant | 2-amino-4-(-3-nitrophenyl)thiazole | NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H7N3O2S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-2-methyl-N-[4-(3-nitrophenyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C | C16H12ClN3O4S2
